** sch_path: /home/tarator/github_repos/TTSKY26a_Miller_OTA/src/xschem/miller_ota_test_openLoop.sch
**.subckt miller_ota_test_openLoop
x1 vdd out net1 net3 0 miller_ota
V1 net1 0 0.7
V2 net2 0 dc 0.700057 ac 1
R1 net3 net2 10k
C1 out 0 3p
V3 vdd 0 1.8
**** begin user architecture code


.control
op
run
echo "Current of Stage 3"
print @m.x1.xm6.msky130_fd_pr__pfet_01v8[id]

reset
ac dec 100 1k 1g
run
plot  vdb(out)
.endc

.end

.lib /usr/local/share/pdk/sky130B/libs.tech/combined/sky130.lib.spice tt
**** end user architecture code
**.ends

* expanding   symbol:  miller_ota.sym # of pins=5
** sym_path: /home/tarator/github_repos/TTSKY26a_Miller_OTA/src/xschem/miller_ota.sym
** sch_path: /home/tarator/github_repos/TTSKY26a_Miller_OTA/src/xschem/miller_ota.sch
.subckt miller_ota VDPWR out inn inp VGND
*.ipin inp
*.opin out
*.ipin inn
*.iopin VDPWR
*.iopin VGND
XMs1 net1 net1 VDPWR VDPWR sky130_fd_pr__pfet_01v8 L=10 W=0.5 nf=1 ad=0.145 as=0.145 pd=1.58 ps=1.58 nrd=0.58 nrs=0.58 sa=0 sb=0
+ sd=0 mult=1
XMs3 vref net1 net2 VGND sky130_fd_pr__nfet_01v8 L=1 W=2 nf=1 ad=0.58 as=0.58 pd=4.58 ps=4.58 nrd=0.145 nrs=0.145 sa=0 sb=0 sd=0
+ mult=1
XMs2 net1 net2 VGND VGND sky130_fd_pr__nfet_01v8 L=0.15 W=1 nf=1 ad=0.29 as=0.29 pd=2.58 ps=2.58 nrd=0.29 nrs=0.29 sa=0 sb=0 sd=0
+ mult=1
XMr3 net2 net2 VGND VGND sky130_fd_pr__nfet_01v8 L=1 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=1
XMr1 net2 vref VDPWR VDPWR sky130_fd_pr__pfet_01v8 L=1 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0
+ sd=0 mult=1
XMr2 vref vref VDPWR VDPWR sky130_fd_pr__pfet_01v8 L=1 W=10 nf=1 ad=2.9 as=2.9 pd=20.58 ps=20.58 nrd=0.029 nrs=0.029 sa=0 sb=0
+ sd=0 mult=1
XMr4 vref net2 net3 net3 sky130_fd_pr__nfet_01v8 L=1 W=5 nf=1 ad=1.45 as=1.45 pd=10.58 ps=10.58 nrd=0.058 nrs=0.058 sa=0 sb=0 sd=0
+ mult=4 m=4
XR1 VGND net3 VGND sky130_fd_pr__res_xhigh_po W=1 L=4 mult=1
XM4 net5 net4 VGND VGND sky130_fd_pr__nfet_01v8 L=2 W=0.65 nf=1 ad=0.1885 as=0.1885 pd=1.88 ps=1.88 nrd=0.446153846153846
+ nrs=0.446153846153846 sa=0 sb=0 sd=0 mult=1
XM3 net4 net4 VGND VGND sky130_fd_pr__nfet_01v8 L=2 W=0.65 nf=1 ad=0.1885 as=0.1885 pd=1.88 ps=1.88 nrd=0.446153846153846
+ nrs=0.446153846153846 sa=0 sb=0 sd=0 mult=1
XM1 net4 inn net6 net6 sky130_fd_pr__pfet_01v8_lvt L=0.5 W=1.25 nf=1 ad=0.3625 as=0.3625 pd=3.08 ps=3.08 nrd=0.232 nrs=0.232 sa=0
+ sb=0 sd=0 mult=1
XM2 net5 inp net6 net6 sky130_fd_pr__pfet_01v8_lvt L=0.5 W=1.25 nf=1 ad=0.3625 as=0.3625 pd=3.08 ps=3.08 nrd=0.232 nrs=0.232 sa=0
+ sb=0 sd=0 mult=1
XM9 net8 net8 net7 VGND sky130_fd_pr__nfet_01v8 L=2 W=0.55 nf=1 ad=0.1595 as=0.1595 pd=1.68 ps=1.68 nrd=0.527272727272727
+ nrs=0.527272727272727 sa=0 sb=0 sd=0 mult=1
XM10 net7 net7 VGND VGND sky130_fd_pr__nfet_01v8 L=2 W=0.55 nf=1 ad=0.1595 as=0.1595 pd=1.68 ps=1.68 nrd=0.527272727272727
+ nrs=0.527272727272727 sa=0 sb=0 sd=0 mult=1
XMc net9 net8 net5 VGND sky130_fd_pr__nfet_01v8 L=2 W=0.65 nf=1 ad=0.1885 as=0.1885 pd=1.88 ps=1.88 nrd=0.446153846153846
+ nrs=0.446153846153846 sa=0 sb=0 sd=0 mult=2 m=2
XC1 out net9 sky130_fd_pr__cap_mim_m3_1 W=20 L=20 MF=1
XM5 out net5 VGND VGND sky130_fd_pr__nfet_01v8 L=2 W=0.65 nf=1 ad=0.1885 as=0.1885 pd=1.88 ps=1.88 nrd=0.446153846153846
+ nrs=0.446153846153846 sa=0 sb=0 sd=0 mult=30 m=30
XM8 net8 vref VDPWR VDPWR sky130_fd_pr__pfet_01v8 L=1 W=5.6 nf=1 ad=1.624 as=1.624 pd=11.78 ps=11.78 nrd=0.0517857142857143
+ nrs=0.0517857142857143 sa=0 sb=0 sd=0 mult=2 m=2
XM7 out vref VDPWR VDPWR sky130_fd_pr__pfet_01v8 L=1 W=5.3 nf=1 ad=1.537 as=1.537 pd=11.18 ps=11.18 nrd=0.0547169811320755
+ nrs=0.0547169811320755 sa=0 sb=0 sd=0 mult=15 m=15
XM6 net6 vref VDPWR VDPWR sky130_fd_pr__pfet_01v8 L=1 W=5.3 nf=1 ad=1.537 as=1.537 pd=11.18 ps=11.18 nrd=0.0547169811320755
+ nrs=0.0547169811320755 sa=0 sb=0 sd=0 mult=1
.ends

.end
